US07906517B2
(5-Bromo-pyridin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (700 mg) is dissolved in N,N-dimethylformamide (5 ml), and thereto is added sodium hydride (60%) (88 mg) under nitrogen atmosphere at −10° C., and the mixture is stirred at the same temperature for 5 minutes, and thereto is added 3-bromomethyl-5-trifluoromethyl-benzonitrile (771 mg), and the mixture is stirred under ice-cooling for 1 hour and 40 minutes. To the reaction solution are added ethyl acetate and a saturated aqueous citric acid solution, and the mixture is separated, and the organic layer is washed twice with a saturated brine, and the mixture is dried over magnesium sulfate and is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) and (hexane:ethyl acetate=49:1→9:1). The residue is dissolved in diethyl ether, and filtered. The filtrate is concentrated under reduced pressure, and the residue obtained above (630 mg) is dissolved in tetrahydrofuran (3 ml), and thereto are added morpholine (119 μl) and triethylamine (190 μl), and the mixture is stirred at 50° C. for 4 hours, and the reaction solution is cooled to room temperature, and stirred at same temperature overnight. To the reaction solution are added ethyl acetate and water, and the mixture is separated, and the organic layer is washed with water and a saturated brine, and the mixture is dried over magnesium sulfate and is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) to give 3-{[(5-bromo-pyridin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-methyl}-5-trifluoromethyl-benzonitrile (440 mg). MS (m/z): 662/664 [M+H]+

reactant | (5-Bromo-pyridin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 700 mg | BrC=1C=CC(=NC1)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC | C23H22BrF3N2O
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | 3-bromomethyl-5-trifluoromethyl-benzonitrile | 771 mg | BrCC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H5BrF3N
reactant | morpholine | 119 μl | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 190 μl | C(C)N(CC)CC | C6H15N
product | 3-{[(5-bromo-pyridin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-methyl}-5-trifluoromethyl-benzonitrile | 440 mg | BrC=1C=CC(=NC1)N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC=1C=C(C#N)C=C(C1)C(F)(F)F | C32H26BrF6N3O
